US05739128
N-[4-[(6,11-Dihydro-5H-dibenz[b,e]azepin-5-yl)carbonyl]phenyl-2,5-dichlorobenzamide
A mixture of 0.625 g (2 mmol) of 5-(4-aminobenzoyl)-6,11-dihydro-5H-dibenz[b,e]azepine, 0.629 g (3 mmol) of 2,5-dichlorobenzoyl chloride, 0.303 g (3 mmol) of triethylamine and 15 mg of 4-(dimethylamino)pyridine in 10 ml of dichloromethane is stirred at room temperature for 3 hours. The mixture is washed with water, 1N HCl, H2O, 1M NaHCO3, brine and dried (Na2SO4). The solvent is removed to give crystals. Recrystallization from hexane-CH2Cl2 gives 0.16 g of white crystals, m.p. 203°-231° C.

reactant | 5-(4-aminobenzoyl)-6,11-dihydro-5H-dibenz[b,e]azepine | 2 mmol, 0.625 g | NC1=CC=C(C(=O)N2C3=C(CC4=C(C2)C=CC=C4)C=CC=C3)C=C1 | C21H18N2O
reactant | 2,5-dichlorobenzoyl chloride | 3 mmol, 0.629 g | ClC1=C(C(=O)Cl)C=C(C=C1)Cl | C7H3Cl3O
reactant | triethylamine | 3 mmol, 0.303 g | C(C)N(CC)CC | C6H15N
catalyst | 4-(dimethylamino)pyridine | 15 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-[(6,11-Dihydro-5H-dibenz[b,e]azepin-5-yl)carbonyl]phenyl-2,5-dichlorobenzamide | 0.16 g | C1=CC=CC=2N(CC3=C(CC21)C=CC=C3)C(=O)C3=CC=C(C=C3)C=3C(=C(C(=O)N)C=C(C3)Cl)Cl | C28H20Cl2N2O2
